US04031223
A solution of 3.23 g. of 1-methyl-4-(3-iodo-5-hydroxy-5H-dibenzo[a,d]cyclohepten-5-yl)piperidine, 30 ml. of trifluoroacetic acid and 10 ml. of trifluoroacetic anhydride is refluxed for 6 hours. The solution is concentrated on a rotary evaporator and the residue is made basic with 5% sodium hydroxide solution. The oil that precipitates is extracted into ether, and this ether phase is washed with water, dried over magnesium sulfate, filtered, and the ether removed on a rotary evaporator. The residue is triturated with acetonitrile, collected and dried to give 2.36 g. of material. This material is recrystallized from ethyl acetate to give pure (±)-1-methyl-4-(3-iodo-5H-dibenzo[a,d]cyclohepten-5-ylidene)piperidine, m.p. 166°-170°.

reactant | 1-methyl-4-(3-iodo-5-hydroxy-5H-dibenzo[a,d]cyclohepten-5-yl)piperidine | CN1CCC(CC1)C1(C2=C(C=CC3=C1C=C(C=C3)I)C=CC=C2)O | C21H22INO
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | (±)-1-methyl-4-(3-iodo-5H-dibenzo[a,d]cyclohepten-5-ylidene)piperidine | CN1CCC(CC1)=C1C2=C(C=CC3=C1C=C(C=C3)I)C=CC=C2 | C21H20IN
